US07723332B2
According to general procedure C, 4-Bromo-2-trifluoromethyl-benzenesulfonyl chloride (0.50 g, 1.54 mmol) and diethylamine (0.40 mL, 3.85 mmol) were stirred together in dry dichloromethane (2 mL) for 16 hours. 4-bromo-N,N-diethyl-2 (trifluoromethyl)benzenesulfonamide (0.46 g, 83%) was provided after purification. MS (ESI) m/z 360. HPLC purity 100.0% at 210-370 nm, 10.1 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-2-trifluoromethyl-benzenesulfonyl chloride | 1.54 mmol, 0.50 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3BrClF3O2S
reactant | diethylamine | 3.85 mmol, 0.40 mL | C(C)NCC | C4H11N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-bromo-N,N-diethyl-2 (trifluoromethyl)benzenesulfonamide | 0.46 g, 83% | BrC1=CC(=C(C=C1)S(=O)(=O)N(CC)CC)C(F)(F)F | C11H13BrF3NO2S
